US04963590
1-Butyl 3,4-dihydroxy-5-cyanobenzoate
A solution containing 0.5 g of 3,4-dihydroxy-5-cyanobenzoic acid in 10 ml of 1-butanol was saturated with gaseous hydrogen chloride at 0° C. The solution was then heated for 3 h at 100° C. The solvent was evaporated in vacuo and dichloromethane was added to the residue. The formed crystals were filtered. Yield 0.19 g (30%), m.p. 135°-140° C.

reactant | 3,4-dihydroxy-5-cyanobenzoic acid | 0.5 g | OC=1C=C(C(=O)O)C=C(C1O)C#N | C8H5NO4
reactant | hydrogen chloride | Cl | ClH
solvent | 1-butanol | 10 ml | C(CCC)O | C4H10O
product | 1-Butyl 3,4-dihydroxy-5-cyanobenzoate | OC=1C=C(C(=O)OCCCC)C=C(C1O)C#N | C12H13NO4
